US07071358B2
Step C. 2,2,2-Trifluoro-1-(3-methyl-4-methylaminophenyl)-1-phenyl-ethanol
To a solution of 1.03 g (3.23 mmol) of N-(4-bromo-2-methylphenyl)-N-methyl-benzenesulfonamide in 30 ml THF at −78° C. was added dropwise 3.9 ml (6.63 mmol) of a 1.7M solution of tert-BuLi in hexanes and the resultant mixture was stirred at −78° C. for 0.5 h. To this mixture was then added 0.66 ml (4.7 mmol) of 2,2,2-trifluoroacetophenone and the mixture stirred at −78° C. for an additional 0.5 h. The reaction was quenched by the addition of a saturated aqueous solution of ammonium chloride, allowed to warm to room temperature, and extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered and the filtrate was concentrated. 253 mg (0.61 mmol) of this material and 3 ml of TFA was heated to 50° C. for 4 hours. After this time, excess TFA was removed in vacuo, water was added and the mixture was neutralized by the addition of a saturated aqueous solution of NaHCO3. The mixture was extracted with EtOAc and combined organic layers were washed with brine, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:EtOAc, 3:1) to give the title compound. 1H-NMR (CDCl3) δ 2.12 (s, 3H), 2.92 (s, 3H), 6.57 (d, J=8.5 Hz, 1H), 7.16 (s, 1H), 7.16 (brs, 1H), 7.37–7.41 (m, 3H), 7.54–7.56 (m, 2H). Mass Spectrum (CI+) m/e=296.1 (M+1).

reactant | N-(4-bromo-2-methylphenyl)-N-methyl-benzenesulfonamide | 3.23 mmol, 1.03 g | BrC1=CC(=C(C=C1)N(S(=O)(=O)C1=CC=CC=C1)C)C | C14H14BrNO2S
reactant | tert-BuLi | [Li]C(C)(C)C
reactant | 2,2,2-trifluoroacetophenone | 4.7 mmol, 0.66 ml | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2,2,2-Trifluoro-1-(3-methyl-4-methylaminophenyl)-1-phenyl-ethanol | FC(C(O)(C1=CC=CC=C1)C1=CC(=C(C=C1)NC)C)(F)F | C16H16F3NO
